US08981084B2
N-(1-(5-Cyanopyridin-2-yl)piperidin-3-yl)acetamide
This compound was synthesized from 6-chloronicotinonitrile and 3-acetamidopiperidine as described for example 51 step 1 (850 mg, yield 96%) as white solid. 1H NMR (300 MHz, DMSO-d6) δ 8.44 (d, J=2.2 Hz, 1H), 7.88 (d, J=7.5 Hz, 1H), 7.82-7.79 (dd, J=9.0 Hz, 2.4 Hz, 1H), 6.86 (d, J=9.2 Hz, 1H), 4.20-4.14 (dd, J=12.7 Hz, 3.1 Hz, 1H), 4.08-4.02 (dd, J=13.2 Hz, 3.9 Hz, 1H), 3.62 (m, 1H), 3.22-3.14 (m, 1H), 3.01-2.93 (dd, J=12.9 Hz, 9.2 Hz, 1H), 1.87-1.71 (m, 2H), 1.78 (s, 3H), 1.53-1.41 (m, 2H). MS (ESI) m/z: Calculated for C13H16N4O: 244.13. found: 245.2 (M+H)+

reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 3-acetamidopiperidine | C(C)(=O)NC1CNCCC1 | C7H14N2O
product | N-(1-(5-Cyanopyridin-2-yl)piperidin-3-yl)acetamide | yield 96% | C(#N)C=1C=CC(=NC1)N1CC(CCC1)NC(C)=O | C13H16N4O
